US03998829
Ethyl picolinate (1.0 ml.) was added to a mixture of 3α-(tetrahydropyran-2ξ-yloxy)-5α-pregnane-11,20-dione (840 mg) and sodium hydride (130 mg.) in dry dimethyl sulphoxide (15 ml.). The mixture was stirred, under N2, for 1/2 hr., then treated with methanol and poured into 2N-hydrochloric acid. The precipitate was collected, washed and dried to give 21-picolinyl-3α-(tetrahydropyran-2ξ-yloxy)-5α-pregnane-11,20-dione (695 mg.).

reactant | Ethyl picolinate | 1.0 ml | N1=C(C=CC=C1)C(=O)OCC | C8H9NO2
reactant | 3α-(tetrahydropyran-2ξ-yloxy)-5α-pregnane-11,20-dione | 840 mg | O1C(CCCC1)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C26H40O4
reactant | sodium hydride | 130 mg | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulphoxide | 15 ml | CS(=O)C | C2H6OS
solvent | methanol | CO | CH4O
product | 21-picolinyl-3α-(tetrahydropyran-2ξ-yloxy)-5α-pregnane-11,20-dione | 695 mg | N1=C(C=CC=C1)CCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)OC1OCCCC1)=O | C32H45NO4
